US05852017
6-(2-Methoxy-1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione
28 mmol of 6-amino-2,3(1H,4H)-quinoxalinedione were reacted with 28 mmol of 2,2,5-trimethoxytetrahydrofuran by the method of Example 5d.

reactant | 6-amino-2,3(1H,4H)-quinoxalinedione | 28 mmol | NC=1C=C2NC(C(NC2=CC1)=O)=O | C8H7N3O2
reactant | 2,2,5-trimethoxytetrahydrofuran | 28 mmol | COC1(OC(CC1)OC)OC | C7H14O4
product | 6-(2-Methoxy-1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione | COC=1N(C=CC1)C=1C=C2NC(C(NC2=CC1)=O)=O | C13H11N3O3
